** sch_path: /foss/designs/modulo5/lab01/xschem/tb_cdac_complete.sch
**.subckt tb_cdac_complete
Vvdd vdd GND 1.8
Vvdd1 vin GND 0.972
Vphi phi GND PULSE(1.8 0 0 1n 1n 49n 100n)
Vphi_not phi_not GND PULSE(0 1.8 0 1n 1n 49n 100n)
Vvref vref GND {vref}
VBP7 ctrl7 GND pwl 0 0 100n 0 101n 1.8 148n 1.8 149n 0 300n 0
x1 vdd GND phi_not vout vin phi vref ctrl7 net1 net1 net1 net1 net1 net1 net1 cdac_complete
VBP60 net1 GND 0
R1 vout GND 1G m=1
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.param vref = 0.256
.ic v(vin) = 0

.control
  save all
  tran 10p 300n
  write tb_cdac_complete.raw
  plot v(VOUT) v(VIN) v(phi) v(ctrl7)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  cdac_complete.sym # of pins=15
** sym_path: /foss/designs/modulo5/lab01/xschem/cdac_complete.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/cdac_complete.sch
.subckt cdac_complete VDD GND SMPL_not Vout Vin SMPL Vref ctrl7 ctrl6 ctrl5 ctrl4 ctrl3 ctrl2 ctrl1 ctrl0
*.ipin VDD
*.ipin GND
*.ipin Vref
*.ipin Vin
*.opin Vout
*.ipin SMPL
*.ipin SMPL_not
*.ipin ctrl7
*.ipin ctrl6
*.ipin ctrl5
*.ipin ctrl4
*.ipin ctrl3
*.ipin ctrl2
*.ipin ctrl1
*.ipin ctrl0
x1 Vout Vref net5 net6 net3 net4 net7 net2 net1 net8 cdac
x2 net8 net3 net6 net5 net1 net4 net7 net2 VDD ctrl5 ctrl6 ctrl7 ctrl1 ctrl4 ctrl2 ctrl3 ctrl0 Vref GND switch_bank
x3 Vin GND SMPL_not SMPL VDD Vout passgate
.ends


* expanding   symbol:  cdac.sym # of pins=10
** sym_path: /foss/designs/modulo5/lab01/xschem/cdac.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/cdac.sch
.subckt cdac VOUTP Vref BP3 BP2 BP5 BP4 BP1 BP6 BP7 BP0
*.ipin Vref
*.opin VOUTP
*.ipin BP0
*.ipin BP1
*.ipin BP2
*.ipin BP3
*.ipin BP4
*.ipin BP5
*.ipin BP6
*.ipin BP7
XC1 Vref VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC2 BP0 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC3 BP1 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=2 m=2
XC4 BP2 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=4 m=4
XC5 BP3 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=8 m=8
XC6 BP4 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=16 m=16
XC7 BP5 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=32 m=32
XC8 BP6 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=64 m=64
XC9 BP7 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=128 m=128
.ends


* expanding   symbol:  switch_bank.sym # of pins=19
** sym_path: /foss/designs/modulo5/lab01/xschem/switch_bank.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/switch_bank.sch
.subckt switch_bank BP0 BP5 BP2 BP3 BP7 BP4 BP1 BP6 VDD ctrl5 ctrl6 ctrl7 ctrl1 ctrl4 ctrl2 ctrl3 ctrl0 Vref GND
*.ipin Vref
*.ipin GND
*.iopin BP7
*.iopin BP6
*.iopin BP5
*.iopin BP4
*.iopin BP3
*.iopin BP2
*.iopin BP1
*.iopin BP0
*.ipin VDD
*.ipin ctrl7
*.ipin ctrl6
*.ipin ctrl5
*.ipin ctrl4
*.ipin ctrl3
*.ipin ctrl2
*.ipin ctrl1
*.ipin ctrl0
x1 VDD GND ctrl7 BP7 Vref T_gate
x2 VDD GND ctrl6 BP6 Vref T_gate
x3 VDD GND ctrl5 BP5 Vref T_gate
x4 VDD GND ctrl4 BP4 Vref T_gate
x5 VDD GND ctrl3 BP3 Vref T_gate
x6 VDD GND ctrl2 BP2 Vref T_gate
x7 VDD GND ctrl1 BP1 Vref T_gate
x8 VDD GND ctrl0 BP0 Vref T_gate
.ends


* expanding   symbol:  passgate.sym # of pins=6
** sym_path: /foss/designs/modulo5/lab01/xschem/passgate.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/passgate.sch
.subckt passgate Vin gnd !CTRL CTRL Vdd Vout
*.ipin CTRL
*.ipin !CTRL
*.iopin Vin
*.iopin Vout
*.ipin Vdd
*.ipin gnd
XM1 Vin CTRL Vout gnd sky130_fd_pr__nfet_01v8_lvt L=0.15 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333
+ nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vin !CTRL Vout Vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=12 nf=1 ad=3.48 as=3.48 pd=24.58 ps=24.58 nrd=0.0241666666666667
+ nrs=0.0241666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  T_gate.sym # of pins=5
** sym_path: /foss/designs/modulo5/lab01/xschem/T_gate.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/T_gate.sch
.subckt T_gate VDD GND Ctrl Vout Vref
*.ipin Ctrl
*.iopin Vout
*.iopin VDD
*.iopin GND
*.iopin Vref
x1 VDD Ctrl net1 GND inverter
XM1 GND net1 Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM2 GND Ctrl Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 Vref Ctrl Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM4 Vref net1 Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/modulo5/lab01/xschem/inverter.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/inverter.sch
.subckt inverter VDD IN OUT GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XM1 OUT IN GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
