** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/tb_charge_pump.sch
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt tb_charge_pump
x1 VCC HV A B C D charge_pump
x2 A B C CK D VCC charge_pump_phasegen
V1 VCC GND 'VCC'
V2 CK GND pulse 0 {VCC} 0 100p 100p {PER/2-0.1n} {PER}
C1 HV GND 15p m=1
I0 net2 GND pwl 0 0 1u 0 1.01u 100u 2u 100u 2.01u 150u 3u 150u 3.01u 200u 4u 200u 4.01u 250u
Vload HV net2 0
.save i(vload)
x3 VCC HV2 CK CKN charge_pump2
V3 CKN GND pulse {VCC} 0 0 100p 100p {PER/2-0.1n} {PER}
C2 HV2 GND 15p m=1
I1 net3 GND pwl 0 0 1u 0 1.01u 100u 2u 100u 2.01u 150u 3u 150u 3.01u 200u 4u 200u 4.01u 250u
Vload1 HV2 net3 0
.save i(vload1)
* noconn GND
C3 HV_IDEAL GND 15p m=1
Vload2 HV_IDEAL net4 0
.save i(vload2)
x7 VCC HV_IDEAL CK CKN charge_pump_ideal
I2 net4 GND pwl 0 0 1u 0 1.01u 100u 2u 100u 2.01u 150u 3u 150u 3.01u 200u 4u 200u 4.01u 250u
V4 net1 GND pwl 0 {VCC} 1n {3*VCC}
R1 HV_IDEAL2 net1 {2/1.82p/FREQ} m=1
C4 HV_IDEAL2 GND 15p m=1
Vload3 HV_IDEAL2 net5 0
.save i(vload3)
I3 net5 GND pwl 0 0 1u 0 1.01u 100u 2u 100u 2.01u 150u 3u 150u 3.01u 200u 4u 200u 4.01u 250u
**** begin user architecture code

.option savecurrents
.param VCC=1.8
.param FREQ=100e6
.param PER={1/FREQ}
.control
  save all
  tran 100p 5u
  remzerovec
  write tb_charge_pump.raw
  * quit 0
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sky130_tests/charge_pump.sym # of pins=6
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump.sch
.subckt charge_pump VCC HV A B C D
*.ipin A
*.ipin B
*.ipin C
*.ipin D
*.ipin VCC
*.iopin HV
XM1 net15 net9 net16 net5 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 VCC HV1A G1A VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net10 net17 net6 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 HV1A HV2A G2A HV1A sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM5 HV2A net11 HV3A HV2A sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM6 HV2A HV3A G3A HV2A sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM7 HV2A G3A net3 HV2A sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XC1 G1A A sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC2 HV1A B sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC3 G2A C sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC4 HV2A D sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC5 G3A A sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC6 HV3A B sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XM8 net18 net12 net19 net7 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625
+ sa=0 sb=0 sd=0 mult=1 m=1
XM9 VCC HV1B G1B VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM10 net2 net13 net20 net8 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625
+ sa=0 sb=0 sd=0 mult=1 m=1
XM11 HV1B HV2B G2B HV1B sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM12 HV2B net14 HV3B HV2B sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM13 HV2B HV3B G3B HV2B sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM14 HV2B G3B net4 HV2B sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XC7 G1B C sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC8 HV1B D sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC9 G2B A sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC10 HV2B B sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC11 G3B C sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC12 HV3B D sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
V1 HV1B net2 0
.save i(v1)
V2 net3 HV 0
.save i(v2)
V3 net4 HV 0
.save i(v3)
V4 HV1A net1 0
.save i(v4)
V5 VCC net18 0
.save i(v5)
V6 VCC net15 0
.save i(v6)
V7 net20 HV2B 0
.save i(v7)
V8 net17 HV2A 0
.save i(v8)
V9 VCC net5 0
.save i(v9)
V10 HV1A net6 0
.save i(v10)
V11 VCC net7 0
.save i(v11)
V12 HV1B net8 0
.save i(v12)
V13 net19 HV1B 0
.save i(v13)
V14 net16 HV1A 0
.save i(v14)
V15 G1A net9 0
.save i(v15)
V16 G2A net10 0
.save i(v16)
V17 G3A net11 0
.save i(v17)
V18 G1B net12 0
.save i(v18)
V19 G2B net13 0
.save i(v19)
V20 G3B net14 0
.save i(v20)
.ends


* expanding   symbol:  sky130_tests/charge_pump_phasegen.sym # of pins=6
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump_phasegen.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump_phasegen.sch
.subckt charge_pump_phasegen A B C CK D VCC
*.ipin CK
*.opin A
*.opin B
*.opin C
*.opin D
*.ipin VCC
x1 CKN BN GND GND VCC VCC AN sky130_fd_sc_hd__nand2_2
x2 AN GND GND VCC VCC A sky130_fd_sc_hd__inv_4
x5 AN CK GND GND VCC VCC net1 sky130_fd_sc_hd__nand2_1
x6 net1 net2 GND GND VCC VCC net5 sky130_fd_sc_hd__nand2_1
x7 DI net6 VCC GND lvtnot W_N=0.5 L_N=1 W_P=1 L_P=1 m=1
x8 net6 net2 VCC GND lvtnot W_N=0.5 L_N=1 W_P=1 L_P=1 m=1
x9 BN GND GND VCC VCC B sky130_fd_sc_hd__inv_12
x10 net5 GND GND VCC VCC BN sky130_fd_sc_hd__inv_2
x11 CK DN GND GND VCC VCC CN sky130_fd_sc_hd__nand2_2
x12 CN GND GND VCC VCC C sky130_fd_sc_hd__inv_4
x13 CN CKN GND GND VCC VCC net3 sky130_fd_sc_hd__nand2_1
x14 net3 net4 GND GND VCC VCC net7 sky130_fd_sc_hd__nand2_1
x15 BI net8 VCC GND lvtnot W_N=0.5 L_N=1 W_P=1 L_P=1 m=1
x16 net8 net4 VCC GND lvtnot W_N=0.5 L_N=1 W_P=1 L_P=1 m=1
x17 DN GND GND VCC VCC D sky130_fd_sc_hd__inv_12
x18 net7 GND GND VCC VCC DN sky130_fd_sc_hd__inv_2
x3 CK GND GND VCC VCC CKN sky130_fd_sc_hd__inv_12
* noconn VCC
x19 BN GND GND VCC VCC BI sky130_fd_sc_hd__inv_2
x20 DN GND GND VCC VCC DI sky130_fd_sc_hd__inv_2
.ends


* expanding   symbol:  sky130_tests/charge_pump2.sym # of pins=4
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump2.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump2.sch
.subckt charge_pump2 VCC HV CK CKN
*.ipin VCC
*.iopin HV
*.ipin CK
*.ipin CKN
XM8 D1 GN1 VCC VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult=1 m=1
XM9 D2 GN2 VCC VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult=1 m=1
XM10 D1 GP1 HV1 HV1 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
XM11 D2 GP2 HV1 HV1 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
XC7 D2 net1 sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC8 D1 net2 sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XM12 D3 GN3 HV1 HV1 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM13 D4 GN4 HV1 HV1 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM14 D3 GP3 HV HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
XM15 D4 GP4 HV HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1 m=1
XC9 D4 net3 sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
XC10 D3 net4 sky130_fd_pr__cap_mim_m3_1 W=30 L=15 MF=1 m=1
x12 CK GND GND VCC VCC net1 sky130_fd_sc_hd__inv_6
x1 CKN GND GND VCC VCC net2 sky130_fd_sc_hd__inv_6
x2 CK GND GND VCC VCC net3 sky130_fd_sc_hd__inv_6
x3 CKN GND GND VCC VCC net4 sky130_fd_sc_hd__inv_6
XM1 GP3 GP4 HV HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 GP4 GP3 HV HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XC1 GP3 net5 sky130_fd_pr__cap_mim_m3_1 W=6 L=8 MF=1 m=1
XC2 GP4 net6 sky130_fd_pr__cap_mim_m3_1 W=6 L=8 MF=1 m=1
XM3 GP1 GP2 HV1 HV1 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 GP2 GP1 HV1 HV1 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XC3 GP1 net7 sky130_fd_pr__cap_mim_m3_1 W=6 L=8 MF=1 m=1
XC4 GP2 net8 sky130_fd_pr__cap_mim_m3_1 W=6 L=8 MF=1 m=1
x4 CK GND GND VCC VCC net5 sky130_fd_sc_hd__inv_2
x5 CKN GND GND VCC VCC net6 sky130_fd_sc_hd__inv_2
x6 CK GND GND VCC VCC net7 sky130_fd_sc_hd__inv_2
x7 CKN GND GND VCC VCC net8 sky130_fd_sc_hd__inv_2
XC5 GN1 net9 sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC6 GN2 net10 sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
x8 CK GND GND VCC VCC net9 sky130_fd_sc_hd__inv_2
x9 CKN GND GND VCC VCC net10 sky130_fd_sc_hd__inv_2
XM5 VCC GN1 GN2 VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1 m=1
XM6 VCC GN2 GN1 VCC sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1 m=1
XC11 GN3 net11 sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
XC12 GN4 net12 sky130_fd_pr__cap_mim_m3_1 W=6 L=4 MF=1 m=1
x10 CK GND GND VCC VCC net11 sky130_fd_sc_hd__inv_2
x11 CKN GND GND VCC VCC net12 sky130_fd_sc_hd__inv_2
XM7 HV1 GN3 GN4 HV1 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1 m=1
XM16 HV1 GN4 GN3 HV1 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends


* expanding   symbol:  sky130_tests/charge_pump_ideal.sym # of pins=4
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump_ideal.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/charge_pump_ideal.sch
.subckt charge_pump_ideal VCC HV CK CKN
*.ipin CK
*.ipin CKN
*.iopin HV
*.ipin VCC
X4 net2 HV diode_ngspice Ron=0.1 Roff=1e9 m=1
X5 net1 net2 diode_ngspice Ron=0.1 Roff=1e9 m=1
X6 VCC net1 diode_ngspice Ron=0.1 Roff=1e9 m=1
C1 net2 CKN 1.82p m=1
C2 net1 CK 1.82p m=1
.ends


* expanding   symbol:  sky130_tests/lvtnot.sym # of pins=2
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/lvtnot.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/lvtnot.sch
.subckt lvtnot a y VCCPIN VSSPIN     W_N=1 L_N=0.15 W_P=2 L_P=0.35
*.opin y
*.ipin a
XM2 y a VCCPIN VCCPIN sky130_fd_pr__pfet_01v8_lvt L=L_P W=W_P nf=1 ad='int((1 + 1)/2) * W_P / 1 * 0.29' as='int((1 + 2)/2) * W_P / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_P / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_P / 1 + 0.29)' nrd='0.29 / W_P ' nrs='0.29 / W_P ' sa=0 sb=0 sd=0
+ mult=1 m=1
XM1 y a VSSPIN VSSPIN sky130_fd_pr__nfet_01v8_lvt L=L_N W=W_N nf=1 ad='int((1 + 1)/2) * W_N / 1 * 0.29' as='int((1 + 2)/2) * W_N / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_N / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_N / 1 + 0.29)' nrd='0.29 / W_N ' nrs='0.29 / W_N ' sa=0 sb=0 sd=0
+ mult=1 m=1
.ends


* expanding   symbol:  sky130_tests/diode_ngspice.sym # of pins=2
** sym_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/diode_ngspice.sym
** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/diode_ngspice.sch
.subckt diode_ngspice plus minus   Roff=1e9 Ron=0.1
*.iopin plus
*.iopin minus
Vm mn minus 0
.save i(vm)
Vp plus pn 0
.save i(vp)
B1 pn mn I = 'v(pn,mn) > 0 ? v(pn,mn) / Ron : v(pn,mn) / Roff' m=1
.ends

.end
