** sch_path: /foss/designs/modulo5/lab01/xschem/tb_passgate.sch
**.subckt tb_passgate
Vvdd vdd GND 1.8
x1 Vin GND ctrl_not ctrl vdd Vout passgate
Vvin Vin GND PWL(0 0.9 500n 1.8 500n 0.9 1000n 0)
Vctrl ctrl GND PULSE(0 1.8 100n 1n 1n 200n 400n)
Vctrl_not ctrl_not GND PULSE(1.8 0 100n 1n 1n 200n 400n)
C1 Vout GND 12.8p m=1
R1 Vout GND 1G m=1
**** begin user architecture code


.control
  save all
  tran 100p 1000n
  write tb_passgate.raw
  plot v(Vin) v(Vout) v(CTRL)
.endc



** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt

**** end user architecture code
**.ends

* expanding   symbol:  passgate.sym # of pins=6
** sym_path: /foss/designs/modulo5/lab01/xschem/passgate.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/passgate.sch
.subckt passgate Vin gnd !CTRL CTRL Vdd Vout
*.ipin CTRL
*.ipin !CTRL
*.iopin Vin
*.iopin Vout
*.ipin Vdd
*.ipin gnd
XM1 Vin CTRL Vout gnd sky130_fd_pr__nfet_01v8_lvt L=0.15 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333
+ nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vin !CTRL Vout Vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=12 nf=1 ad=3.48 as=3.48 pd=24.58 ps=24.58 nrd=0.0241666666666667
+ nrs=0.0241666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
